US07087597B1
3-chloro-4-methoxybenzyl chloride
To a solution of 3-chloro-4-methoxybenzyl alcohol (1.1 g, 6 mmol) in tetrahydrofuran (5 mL) were added under ice-cooling triethylamine (1.67 mL, 12 mmol) and methanesulfonyl chloride (0.51 ml, 6 mmol) and the mixture was stirred at room temperature for 18 h. The solvent was evaporated under reduced pressure and the obtained residue was dissolved in ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give an almost pure title compound (700 mg, 61%).

reactant | 3-chloro-4-methoxybenzyl alcohol | 6 mmol, 1.1 g | ClC=1C=C(CO)C=CC1OC | C8H9ClO2
reactant | triethylamine | 12 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6 mmol, 0.51 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-chloro-4-methoxybenzyl chloride | 700 mg, 61% | ClC=1C=C(CCl)C=CC1OC | C8H8Cl2O
